US05965553
Trans-7-chloro-5-(1-naphthyl)-1-(4-(2-methylimidazol-1-yl)butyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetamide
Hydrogen peroxide solution (30% w /v in H2O, 4 ml) was added to a suspension of trans-7-chloro-5-(1-naphthyl)-1-(4-(2-methylimidazol-1-yl)butyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetonitrile (250 mg, 0.5 mmol) and potassium carbonate (69 mg, 0.5 mmol) in ethanol (10 ml). The mixture was heated at 60° C. for 18 hours. The solvent was removed under reduced pressure, the resulting residue dissolved in dichloromethane and washed with brine. The organic layer was dried (MgSO4), and concentrated under reduced pressure. The residue was purified by flash column chromatography (dichloromethane/methanol/ammonia solution 97:3:1) to give a colorless oil. The oil was triturated with hot ethyl acetate/diethyl ether/hexane to give the title compound (98 mg, 38%)as a colorless solid.

reactant | Hydrogen peroxide | 4 ml | OO | H2O2
reactant | trans-7-chloro-5-(1-naphthyl)-1-(4-(2-methylimidazol-1-yl)butyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetonitrile | 0.5 mmol, 250 mg | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CCCCN2C(=NC=C2)C)=O)CC#N)C2=CC=CC3=CC=CC=C23)C1 | C29H27ClN4O2
reactant | potassium carbonate | 0.5 mmol, 69 mg | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | Trans-7-chloro-5-(1-naphthyl)-1-(4-(2-methylimidazol-1-yl)butyl)-2-oxo-1,2,3,5-tetrahydro-4,1-benzoxazepine-3-acetamide | 98 mg, 38% | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CCCCN2C(=NC=C2)C)=O)CC(=O)N)C2=CC=CC3=CC=CC=C23)C1 | C29H29ClN4O3
